US05968982
9-Bromononyltriphenylphosphonium bromide (65)
103 g (0.36 mol) 1,9-dibromononane is stirred at 120° C. and a solution of 11.8 g (0.045 mol) triphenylphosphine in 120 ml toluene is added within 8 hours. After a further 10 hours at 120° C. it is allowed to cool, the supernatant is decanted and the viscous residue is stirred twice with isohexane at 60° C. After drying on a rotary evaporator in a stream of nitrogen 22.4 g (91%) 65 was obtained as a nearly colourless resin.

reactant | 1,9-dibromononane | 0.36 mol, 103 g | BrCCCCCCCCCBr | C9H18Br2
reactant | triphenylphosphine | 0.045 mol, 11.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 120 ml | C1(=CC=CC=C1)C | C7H8
product | 9-Bromononyltriphenylphosphonium bromide | [Br-].BrCCCCCCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C27H33BrP.BrH/c28-23-15-4-2-1-3-5-16-24-29(25-17-9-6-10-18-25,26-19-11-7-12-20-26)27-21-13-8-14-22-27;/h6-14,17-22H,1-5,15-16,23-24H2;1H/q+1;/p-1
